US05356926
Ethyl 6-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]-3-pyridinecarboxylate
Following a procedure analogous to Example 12, 5-methoxy-3-(1-methyl ethoxy)benzo[b]thiophene-2-carboxylic acid (1.07 g, 4 mmol ) and ethyl 6-aminonicotinate (690 mg, 4.2 mmol) provides 90 mg (6%) of product; mp 131°-133° C.

reactant | 5-methoxy-3-(1-methyl ethoxy)benzo[b]thiophene-2-carboxylic acid | 4 mmol, 1.07 g | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | ethyl 6-aminonicotinate | 4.2 mmol, 690 mg | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
product | Ethyl 6-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]-3-pyridinecarboxylate | 90 mg, 6% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC2=CC=C(C=N2)C(=O)OCC)C=C1 | C21H22N2O5S
